US07951836B2
b) rac-3-(4-Trifluoromethyl-phenyl)-pyrrolidin-3-ol
To a solution of 1.98 mmol rac-3-Hydroxy-3-(4-trifluoromethyl-phenyl)-pyrrolidine-1-carboxylic acid ethyl ester in 15 ml dioxane., was added 8 ml of a 2.5N solution of KOH in butanol. The solution was stirred under reflux for 2 hours. The solvent was removed in vacuo and the residue was taken in water. The aqueous phase was extracted 3 times with dichloromethane. The combined organic phases were dried over Na2SO4, evaporated and dried. The compound was suspended in hexane/ether (˜2:1), filtered and rinsed with hexane to yield the title compound (57%) as a light brown solid MS (m/e): 232.1 ([M+1], 100%).

reactant | rac-3-Hydroxy-3-(4-trifluoromethyl-phenyl)-pyrrolidine-1-carboxylic acid ethyl ester | 1.98 mmol | C(C)OC(=O)N1CC(CC1)(C1=CC=C(C=C1)C(F)(F)F)O | C14H16F3NO3
reactant | KOH | [OH-].[K+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | butanol | C(CCC)O | C4H10O
product | rac-3-(4-Trifluoromethyl-phenyl)-pyrrolidin-3-ol | 57% | FC(C1=CC=C(C=C1)C1(CNCC1)O)(F)F | C11H12F3NO
